US06265426B1
4-tert-Butoxycarbonylmethoxy-3-fluoro-benzoic acid methyl ester
A mixture of 3-fluoro-4-hydroxy-benzoic acid methyl ester (2.5 g, 14.7 mmol), NaH suspension in oil (55%) (641 mg, 14.7 mmol), KI (244 mg, 14.7 mmol, 0.1 eq.) and tert.butyl bromoacetate (3.44 g, 17.6 mmol 1.2 eq.) in dimethoxyethane (20 ml) was heated to 70° C. for 16 hrs. After evaporation of the solvent the residue was chromatographed over 120 g SiO2 (Merck 230-400 mesh) with EtOAc/nHexane 7:93, affording the title compound (3.53 g, 85% yield) as a colorless liquid. MS: m/e=284 (M+).

reactant | 3-fluoro-4-hydroxy-benzoic acid methyl ester | 14.7 mmol, 2.5 g | COC(C1=CC(=C(C=C1)O)F)=O | C8H7FO3
reactant | NaH | [H-].[Na+]
reactant | tert.butyl bromoacetate | 17.6 mmol, 3.44 g, 1.2 eq. | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 4-tert-Butoxycarbonylmethoxy-3-fluoro-benzoic acid methyl ester | 3.53 g, 85% yield | COC(C1=CC(=C(C=C1)OCC(=O)OC(C)(C)C)F)=O | C14H17FO5
